US09376422B2
Step 4: Synthesis of methyl 2-chloro-3-methylpyridine-4-carboxylate
To a stirred solution of 2-chloro-3-methylpyridine-4-carboxylic acid (780 mg, 4.5 mmol) in anhydrous DMF (5.0 ml), was added potassium carbonate (1.25 g, 9.1 mmol), followed by methyl iodide (0.42 ml, 6.8 mmol) dropwise. A further 4 ml of DMF was added and the reaction mixture was stirred at room temperature under nitrogen for 18.5 hours. The solvent was removed in-vacuo and the residue was then partitioned between CH2Cl2 (20 ml) and water (20 ml). The layers were separated and the aqueous layer was extracted with CH2Cl2 (3×15 ml). The combined organic layers were washed with water (2×30 ml), brine (40 ml), dried (MgSO4), filtered and concentrated in-vacuo. The residue was purified by column chromatography (10 g SNAP cartridge, Isolera, 0-6% ethyl acetate:heptanes) to give the title compound (591 mg, 59%) as a colourless oil. LC-MS 84%, m/z=185.9, 187.9; 1H NMR (500 MHz, Chloroform-d) δ ppm 8.33 (d, J=5.04 Hz, 1H) 7.54 (d, J=5.04 Hz, 1H) 3.95 (s, 3H) 2.60 (s, 3H).

reactant | 2-chloro-3-methylpyridine-4-carboxylic acid | 4.5 mmol, 780 mg | ClC1=NC=CC(=C1C)C(=O)O | C7H6ClNO2
reactant | potassium carbonate | 9.1 mmol, 1.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 6.8 mmol, 0.42 ml | CI | CH3I
solvent | DMF | 5.0 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | methyl 2-chloro-3-methylpyridine-4-carboxylate | 591 mg, 59% | ClC1=NC=CC(=C1C)C(=O)OC | C8H8ClNO2
